US07932250B2
2-[(2-Hydroxyethyl)(methyl)amino]-N-(4-nitrophenyl)acetamide
To a suspension of 2.946 g (13.73 mmol) of 2-chloro-N-(4-nitrophenyl)acetamide in 30 mL of ethanol was added 3.31 mL (41.18 mmol) of 2-(methylamino)ethanol and the mixture was refluxed for 4 hours. After the reaction mixture was cooled to room temperature and condensed, then, the residue was treated with ethyl acetate. The organic layer was washed with water and dried over with anhydrous sodium sulfate. The solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (eluent:dichloromethane/methanol=40/1) to give 2.05 g (59%) of the title compound.

reactant | 2-chloro-N-(4-nitrophenyl)acetamide | 13.73 mmol, 2.946 g | ClCC(=O)NC1=CC=C(C=C1)[N+](=O)[O-] | C8H7ClN2O3
reactant | 2-(methylamino)ethanol | 41.18 mmol, 3.31 mL | CNCCO | C3H9NO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-[(2-Hydroxyethyl)(methyl)amino]-N-(4-nitrophenyl)acetamide | 2.05 g, 59% | OCCN(CC(=O)NC1=CC=C(C=C1)[N+](=O)[O-])C | C11H15N3O4
